US05998433
b) Synthesis of 2-[(3-furylmethyl)-(6-phenylhexyl) amino]ethanol
To a solution of 2.538 g (9.861 mmol) of N-(3-furylmethyl)-6-phenylhexylamine and 7.39 g (59.2 mmol) of 2-bromoethanol in 50 ml of N,N-dimethylformamide, 13.6 g (98.6 mmol) of potassium carbonate was added, followed by overnight stirring at 90° C. After cooling to room temperature, the reaction mixture was poured into water and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1) to yield the desired product.

reactant | N-(3-furylmethyl)-6-phenylhexylamine | 9.861 mmol, 2.538 g | O1C=C(C=C1)CNCCCCCCC1=CC=CC=C1 | C17H23NO
reactant | 2-bromoethanol | 59.2 mmol, 7.39 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 98.6 mmol, 13.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[(3-furylmethyl)-(6-phenylhexyl) amino]ethanol | O1C=C(C=C1)CN(CCO)CCCCCCC1=CC=CC=C1 | C19H27NO2
